US07521465B2
Synthesis of 2-amino-3-{4-[4-(2,4-dioxothiazolidin-5-ylmethyl)-phenoxy]-phenyl}-N,N-dimethylpropionamide hydrochloric acid salt. (19)
(1-dimethylcarbamoyl-2-{4-[4-(2,4-dioxothiazolidin-5-ylmethyl)-phenoxy]-phenyl}-ethyl)-carbamic acid tert-butyl ester (0.25 g) was dissolved in CH2Cl2 and cooled to 0-5° C. Hydrogen chloride gas was bubbled through this solution for 30 min. The excess HCl was degassed and the CH2Cl2 was removed. The residual solid was triturated with EtOAc (2×25 mL), decanted, and dried to yield the desired compound 2-amino-3-{4-[4-(2,4-dioxothiazolidin-5-ylmethyl)-phenoxy]-phenyl}-N,N-dimethylpropionamide hydrochloric acid salt as a white amorphous solid (0.16 g, 73.1%). 1H NMR (DMSO-d6): 12.05 (br, 1H), 7.26 (d, J=8.4 Hz, 2H), 7.22 (d, J=8.4 Hz, 2H), 6.96 (d, J=8.4 Hz, 2H), 6.91 (d, J=8.4 Hz, 2H), 4.90 (dd, J=9.6 and 4.4 Hz, 1H), 4.53 (br, 1H), 2.91-3.14 (m, 4H), 2.81 (s, 3H), 3.05 (s, 3H).

reactant | (1-dimethylcarbamoyl-2-{4-[4-(2,4-dioxothiazolidin-5-ylmethyl)-phenoxy]-phenyl}-ethyl)-carbamic acid tert-butyl ester | 0.25 g | C(C)(C)(C)OC(NC(CC1=CC=C(C=C1)OC1=CC=C(C=C1)CC1C(NC(S1)=O)=O)C(N(C)C)=O)=O | C26H31N3O6S
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-amino-3-{4-[4-(2,4-dioxothiazolidin-5-ylmethyl)-phenoxy]-phenyl}-N,N-dimethylpropionamide hydrochloric acid salt | 0.16 g, 73.1% | Cl.NC(C(=O)N(C)C)CC1=CC=C(C=C1)OC1=CC=C(C=C1)CC1C(NC(S1)=O)=O | InChI=1S/C21H23N3O4S.ClH/c1-24(2)20(26)17(22)11-13-3-7-15(8-4-13)28-16-9-5-14(6-10-16)12-18-19(25)23-21(27)29-18;/h3-10,17-18H,11-12,22H2,1-2H3,(H,23,25,27);1H
